US08349865B2
Step 2: 9-Bromo-N-(2,6-dichloro-4-iodophenyl)-1-methoxybenzo[c]-2,6-naphthyridin-5-amine
To a solution of 9-bromo-1-chloro-N-(2,6-dichloro-4-iodophenyl)benzo[c]-2,6-naphthyridin-5-amine (1.56 g, 2.69 mmol) in methanol (30 mL) was added sodium methoxide (10 mL, 25% in methanol) and heated the reaction to 100° C. for 45min. The reaction was cooled to room temperature and a few drops of water were added to quench the reaction. The organic layer was evaporated under vacuum and the residue was diluted with ethyl acetate and extracted with water. The organic layer was separated, dried with sodium sulfate, filtered and evaporated. The residue was taken to the next step without purification.

reactant | 9-bromo-1-chloro-N-(2,6-dichloro-4-iodophenyl)benzo[c]-2,6-naphthyridin-5-amine | 2.69 mmol, 1.56 g | BrC1=CC2=C(N=C(C3=CC=NC(=C23)Cl)NC2=C(C=C(C=C2Cl)I)Cl)C=C1 | C18H8BrCl3IN3
reactant | sodium methoxide | 10 mL | C[O-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
catalyst | water | a few drops | O | H2O
product | 9-Bromo-N-(2,6-dichloro-4-iodophenyl)-1-methoxybenzo[c]-2,6-naphthyridin-5-amine | BrC1=CC2=C(N=C(C3=CC=NC(=C23)OC)NC2=C(C=C(C=C2Cl)I)Cl)C=C1 | C19H11BrCl2IN3O
